Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain and shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with past medical history of atrial fibrillation 
on Eliquis, non obstructive CAD and hypertension presents to OSH 
with back pain/shortness of breath. Workup showed a penetrating 
aortic ulcer with pseudoaneurysm. He was thus transferred to 
___ for BP management in the ICU.
 
Past Medical History:
HTN, A fib, GERD, BPH, oral lichen planus, dyslipidemia

Past surgical history 
Sigmoidectomy in ___ 
Right inguinal hernia repair 
Right hip replacement 
 
Physical Exam:
Vitals:  98.1  97.5  54  107/62  18  97% RA
Gen: A&Ox3, comfortable-appearing male, in NAD
HEENT: No scleral icterus
Pulm: comfortable on room air
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits
 
Pertinent Results:
___ 05:56AM BLOOD WBC-6.4 RBC-3.79* Hgb-11.9* Hct-35.6* 
MCV-94 MCH-31.4 MCHC-33.4 RDW-12.8 RDWSD-43.7 Plt ___
___ 05:56AM BLOOD Glucose-85 UreaN-24* Creat-1.3* Na-142 
K-3.8 Cl-108 HCO3-23 AnGap-11
___ 05:56AM BLOOD Calcium-9.6 Phos-3.0 Mg-1.___ year old man with past medical history of atrial fibrillation 
on Eliquis, non obstructive CAD and hypertension presents to OSH 
with back pain/shortness of breath. Workup showed a penetrating 
aortic ulcer with pseudoaneurysm. He was thus transferred to 
___ for BP management in the ICU.

Vascular medicine was consulted for BP medication titration with 
BP goal 105-120 systolic and HR in the ___. IV medications were 
initially used to control BP which were eventually transitioned 
to oral agents. He remained pain free throughout the 
hospitalization. 
On discharge his BP regiment was as follows:
1. Losartan 100mg (increased from 50)
2. Nifedipine 120mg ER daily
3. Propanolol 120 mg ER daily

Additionally pravastatin was changed to rousuvastatin secondary 
to his extensive vascular disease. Other home medications 
continued for his other medical conditions

On the day of discharge, he was pain free, alert and oriented 
x3, ambulatory ad lib with good appetite and voiding qs. He is 
to follow up with PCP early next week for BP medication 
titration. Vascular surgery will followup in one month with 
repeat CTA of the torso. 
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Apixaban 5 mg PO BID 
2. Pravastatin 40 mg PO QPM 
3. Losartan Potassium 50 mg PO DAILY 
4. PredniSONE 5 mg PO 2X/WEEK (MO,TH) 
5. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  NIFEdipine (Extended Release) 120 mg PO DAILY 
RX *nifedipine 60 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*1 
3.  Propranolol LA 120 mg PO DAILY 
RX *propranolol [Inderal XL] 120 mg 1 capsule(s) by mouth daily 
Disp #*30 Capsule Refills:*1 
4.  Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin [Crestor] 20 mg 1 tablet(s) by mouth DAILY Disp 
#*30 Tablet Refills:*0 
5.  Losartan Potassium 100 mg PO DAILY  
6.  Apixaban 5 mg PO BID  
7.  Finasteride 5 mg PO DAILY  
8.  PredniSONE 5 mg PO 2X/WEEK (MO,TH)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Penetrating Aortic Ulceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,
You were transferred from an OSH for further evaluation of your 
chest pain and shortness of breath after imaging showed an 
abnormality in your aorta that was likely responsible for the 
pain. 

Once your blood pressure was lowered with new medications, your 
pain resolved.  We will follow the area of the aorta that was 
noted to have this penetrating aortic ulceration with CT scan 
over time to make sure the area does not change.  There is no 
indication for intervention at this time.  

We have adjusted your BP medications in consultation with he 
vascular medicine team. We have made changes to your 
medications, outlined below.  It is very important that your BP 
not be above 120 systolic.  Please follow up with your PCP early 
next week for BP medication titration. 
 
 
 
Followup Instructions:
___